US06608203B2
2,2,2-Trifluoro-1-[1-(4-iodophenyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]ethanone
Trifluoroacetic anhydride (1.76 g, 8.36 mmol) was added to a solution of 1-(4-iodophenyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline (2.35 g, 6.44 mmol) and Et3N (1.0 ml, 7.1 mmol) in anhydrous CH2Cl2 (50 ml) at 0° C. under N2. The resulting yellow solution was stirred at 0° C. for 2 hr, then washed first with 1M HCl (2×25 ml) followed by 50% saturated NaHCO3 solution (2×25 ml), dried over Na2SO4, and concentrated in vacuo to give a yellow oil. Purification by flash chromatography, eluting with hexane:EtOAc (6:1) gave 1.87 g (63% yield) of yellow oil.

reactant | Trifluoroacetic anhydride | 8.36 mmol, 1.76 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-(4-iodophenyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 6.44 mmol, 2.35 g | IC1=CC=C(C=C1)C1NCCC2=CC(=CC=C12)OC | C16H16INO
reactant | Et3N | 7.1 mmol, 1.0 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-[1-(4-iodophenyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]ethanone | 1.87 g, 63% yield | FC(C(=O)N1C(C2=CC=C(C=C2CC1)OC)C1=CC=C(C=C1)I)(F)F | C18H15F3INO2
